US09303002B2
3,3′-sulfonyldipropanoic acid (I-14)
3,3′-thiodipropanoic acid (1 equivalent) was taken in THF and to it oxone (2 equivalents) taken in water was slowly added and stirred at room temperature for 3 h. The progress of the reaction was monitored by TLC. After completion of the reaction, water was added to the reaction mixture and extracted with ethyl acetate. The organic layer was dried over anhydrous sodium sulfate and evaporated to dryness to afford the crude product I-14 in 20-30% yield.

reactant | 3,3′-thiodipropanoic acid | 1 equivalent | S(CCC(=O)O)CCC(=O)O | C6H10O4S
reactant | oxone | 2 equivalents | OOS(=O)[O-].[K+]
reactant | water | O | H2O
solvent | THF | C1CCOC1 | C4H8O
product | 3,3′-sulfonyldipropanoic acid | 20-30% yield | S(=O)(=O)(CCC(=O)O)CCC(=O)O | C6H10O6S
